US05252575
2-Amino-9-[3-(methoxymethoxy)propoxy]purine
A solution of 2-formamido-9-[3-(methoxymethoxy)propoxy]purine (0.4 g, 1.42 mmol) in methanol (15 ml) was treated with sodium methoxide solution (0.5M, 5 ml) and heated to reflux for 2 hr. The cooled reaction mixture was neutralised with AMBERLITE IR 120H resin, filtered and the solvent was removed in vacuo. The residue was dissolved in ethyl acetate (50 ml), washed with water (2×20 ml), dried (MgSO4), filtered and the filtrate evaporated in vacuo. The residue was purified by column chromatography on silica eluting with ethyl acetate, followed by crystallisation from acetone/hexane to give the title compound as colourless crystals (0.2 g, 55%) mp 80°-1° C. λmax (MeOH) 223 (ε26,375), 245 (5020) and 310 nm (7320); νmax (KBr) 3320, 3180, 3080, 2940, 2880, 1645, 1610, 1580, 1505, 1465, and 1430 cm-1 ; δH [(CD3)2SO] 1.95 (2H, quintet, J=6.3 Hz, CH2CH2CH2), 3.25 (3H, s, OCH3), 3.63 (2H, t, J=6.3 Hz, CH2OCH2OCH3), 4.40 (2H, t, J=6.3 Hz, CH2ON), 4.57 (2H, s, OCH2O), 6.68 (2H, br.s, D2O exchangeable NH2), 8.3 (1H, s, 8-H), 8.59 (1H, s, 6-H). (Found: C, 47.34, H 6.08% C10H15N5O3 requires: C, 47.42; H, 59.7%).

reactant | 2-formamido-9-[3-(methoxymethoxy)propoxy]purine | 1.42 mmol, 0.4 g | C(=O)NC1=NC=C2N=CN(C2=N1)OCCCOCOC | C11H15N5O4
reactant | sodium methoxide | 0.5M, 5 ml | C[O-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 2-Amino-9-[3-(methoxymethoxy)propoxy]purine | 0.2 g, 55% | NC1=NC=C2N=CN(C2=N1)OCCCOCOC | C10H15N5O3
